US06022883
N-diaminomethylene-3-methylsulfonyl-4-(4-methyl-3-pyridyloxy)benzamide;
N-diaminomethylene-3-methylsulfonyl-4-(5-chloro-3-pyridyloxy)benzamide, m.p. 233°; with methyl 3-methylsulfonyl-4-(4-hydroxy-3-pyridyloxy)benzoate,

reactant | N-diaminomethylene-3-methylsulfonyl-4-(5-chloro-3-pyridyloxy)benzamide | NC(=NC(C1=CC(=C(C=C1)OC=1C=NC=C(C1)Cl)S(=O)(=O)C)=O)N | C14H13ClN4O4S
reactant | methyl 3-methylsulfonyl-4-(4-hydroxy-3-pyridyloxy)benzoate | CS(=O)(=O)C=1C=C(C(=O)OC)C=CC1OC=1C=NC=CC1O | C14H13NO6S
product | N-diaminomethylene-3-methylsulfonyl-4-(4-methyl-3-pyridyloxy)benzamide | NC(=NC(C1=CC(=C(C=C1)OC=1C=NC=CC1C)S(=O)(=O)C)=O)N | C15H16N4O4S
